US07521446B2
(5S)-5-aminopiperidin-2-one, hydrochloride
N-((3S)-6-Oxo(3-piperidyl))(tert-butoxy)carboxamide (3.9 mmol, 0.83 g) were dissolved in ethanol (10 mL) and cooled to 0° C. Acetyl chloride (2 mL) was added and the reaction was allowed to reach room temperature. The reaction was stirred for 1 hour after which the solvent was removed in vacuo to yield the title compound (725 mg, 99% yield) as the dihydrochloride salt. ES-MS: 115 (M+1).

reactant | N-((3S)-6-Oxo(3-piperidyl))(tert-butoxy)carboxamide | 3.9 mmol, 0.83 g | O=C1CC[C@@H](CN1)NC(=O)OC(C)(C)C | C10H18N2O3
reactant | Acetyl chloride | 2 mL | C(C)(=O)Cl | C2H3ClO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (5S)-5-aminopiperidin-2-one, hydrochloride | 725 mg, 99% yield | Cl.N[C@H]1CCC(NC1)=O | InChI=1S/C5H10N2O.ClH/c6-4-1-2-5(8)7-3-4;/h4H,1-3,6H2,(H,7,8);1H/t4-;/m0./s1
